US07351339B2
6.47 g (82.5 mmol) of acetyl chloride were added dropwise with stirring at 20° C. to a solution of 6.61 g (75.0 mmol) of neopentyl alcohol (2,2-dimethyl-1-propanol) and 6.76 g (82.5 mmol) of 1-methylimidazole. The reaction mixture was stirred for a further 30 min and then heated to 75° C. The suspension which had formed in the meantime was converted to a liquid biphasic mixture. Removal of the upper phase gave 8.40 g (theory: 9.76 g) of neopentyl acetate as a colorless oil having a purity of 98% (GC).

reactant | acetyl chloride | 82.5 mmol, 6.47 g | C(C)(=O)Cl | C2H3ClO
reactant | neopentyl alcohol | 75.0 mmol, 6.61 g | C(C(C)(C)C)O | C5H12O
reactant | 1-methylimidazole | 82.5 mmol, 6.76 g | CN1C=NC=C1 | C4H6N2
product | neopentyl acetate | 8.40 g | C(C)(=O)OCC(C)(C)C | C7H14O2
